US04517202
By proceeding in a manner to that described in Reference Example 47, but replacing the starting material by the appropriate quantity of (E)-2-(3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl)bicyclo[3,3,0]octan-6-one, prepared as described in Reference Example 52, and in the form of (±)-(E)-2β-[(mixture of 3α and 3β)-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]bicyclo[3,3,0]octan-6-one, there was prepared 6-(E)-3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl-3-(1-hydroxy-4-methoxycarbonylbut-1-yl)-bicyclo[3,3,0]octan-2-one, in the form of (±)-6β-[(E)-(mixture of 3α and 3β)-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-(1-hydroxy-4-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one.

reactant | (E)-2-(3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl)bicyclo[3,3,0]octan-6-one | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2CCC(C2CC1)=O)COC1=CC=CC=C1 | C24H36O3Si
reactant | 3-(1-hydroxy-4-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one | OC(CCCC(=O)OC)C1C(C2CCCC2C1)=O | C14H22O4
product | bicyclo[3,3,0]octan-6-one | C12CCCC2C(CC1)=O | C8H12O
